US07985866B2
Epoxidation of 12.6 g (0.1 mol) of (4-methylcyclohex-3-enyl)methanol was carried out with a 5 percent by weight solution of peracetic acid in ethyl acetate at 65° C. Purification of the product by distillation yielded 12 g of (6-methyl-7-oxabicyclo[4.1.0]hept-3-yl)methanol with a purity of 98%.

reactant | (4-methylcyclohex-3-enyl)methanol | 0.1 mol, 12.6 g | CC1=CCC(CC1)CO | C8H14O
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6-methyl-7-oxabicyclo[4.1.0]hept-3-yl)methanol | 12 g | CC12CCC(CC2O1)CO | C8H14O2
